US06627651B1
To triphenylphosphine (2361 mg, 9.00 mmol), 1-tert-butoxycarbonyl-4-hydroxypiperidine (1812 mg, 9.00 mmol) and methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (655 mg, 3.00 mmol) dissolved in THF (15 ml) was added at 0° C. a solution of diisopropyl azodicarboxylate (1.772 ml, 9.00 mmol) in THF (2 ml), and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure and the residue was subjected to column chromatography (silica gel: 70 g, ethyl acetate/hexane=1/9→1/7). The objective fractions were concentrated under reduced pressure to obtain methyl 2-[(1-tert-butoxycarbonylpiperidin-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (1270 mg).

reactant | triphenylphosphine | 9.00 mmol, 2361 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 9.00 mmol, 1812 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 3.00 mmol, 655 mg | OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H14O3
reactant | diisopropyl azodicarboxylate | 9.00 mmol, 1.772 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | methyl 2-[(1-tert-butoxycarbonylpiperidin-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1270 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C23H31NO5
